US04588749
N-(3-(4-Methylphenyl)-1,1-dimethylpropyl)-2-hydroxy-2-(3-chlorophenyl)ethanamine
The title compound was prepared in the manner described in Example 9 using 3-chlorophenylglyoxal and 3-(4-methylphenyl)-1,1-dimethylpropanamine. The chromatographed material was recrystallized from cyclohexane to give the title compound m.p. 136. τ(CDCL3 +d6DMSO) 8.9 (6H, s), 8.2-8.4 (2H, m), 7.7 (3H, s), 7.0-7.6 (4H, m), 5.35 (1H, dd), 2.9 (4H, s), 2.5-2.7 (5H, m).

reactant | 3-chlorophenylglyoxal | ClC=1C=C(C=CC1)C(=O)C=O | C8H5ClO2
reactant | 3-(4-methylphenyl)-1,1-dimethylpropanamine | CC1=CC=C(C=C1)CCC(N)(C)C | C12H19N
product | N-(3-(4-Methylphenyl)-1,1-dimethylpropyl)-2-hydroxy-2-(3-chlorophenyl)ethanamine | CC1=CC=C(C=C1)CCC(C)(C)NCC(C1=CC(=CC=C1)Cl)O | C20H26ClNO
